US07691863B2
Cyclopropyl-methanol (2.2 g, 30.6 mmol, 10.0 eq) was dissolved in dry tetrahydrofuran (10 ml, 20 vol) and potassium tert-butoxide (3.4 g, 30.6 mmol, 10.0 eq) added portion-wise. After stirring for 15 minutes at room temperature 5-bromo-6-(4-fluoro-phenyl)-pyrazine-2-carboxylic acid methyl ester (0.95 g, 3.06 mmol, 1.0 eq) was added drop-wise as a tetrahydrofuran (10 ml) solution. The reaction mixture was stirred overnight at room temperature or until deemed complete by HPLC-MS analysis. The solution was concentrated in vacuo and the residue re-dissolved in ethyl acetate (20 ml). The resulting solution was washed with water (5 ml) and the aqueous phase extracted with ethyl acetate (10 ml). The combined organic phases were dried over magnesium sulphate, filtered and concentrated in vacuo to afford 6-(4-fluoro-phenyl)-5-cyclopropylmethoxy-pyrazine-2-carboxylic acid. Yield=0.89 g (75%).

reactant | Cyclopropyl-methanol | 30.6 mmol, 2.2 g, 10.0 eq | C1(CC1)CO | C4H8O
reactant | potassium tert-butoxide | 30.6 mmol, 3.4 g, 10.0 eq | CC(C)([O-])C.[K+]
reactant | 5-bromo-6-(4-fluoro-phenyl)-pyrazine-2-carboxylic acid methyl ester | 3.06 mmol, 0.95 g, 1.0 eq | COC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)F | C12H8BrFN2O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-(4-fluoro-phenyl)-5-cyclopropylmethoxy-pyrazine-2-carboxylic acid | FC1=CC=C(C=C1)C1=C(N=CC(=N1)C(=O)O)OCC1CC1 | C15H13FN2O3
